US05232925
5-(4-[2-(N-(2-Benzoxazolyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione
The title compound (m.p. 242°-5° C.) was prepared from 4-[2-(N-(2-benzoxazolyl)amino)ethoxy]benzaldehyde (5.18 g) and 2,4-thiazolidinedione (2.36 g) by a similar procedure to that described in Example 4.

reactant | 4-[2-(N-(2-benzoxazolyl)amino)ethoxy]benzaldehyde | 5.18 g | O1C(=NC2=C1C=CC=C2)NCCOC2=CC=C(C=O)C=C2 | C16H14N2O3
reactant | 2,4-thiazolidinedione | 2.36 g | S1C(NC(C1)=O)=O | C3H3NO2S
product | 5-(4-[2-(N-(2-Benzoxazolyl)amino)ethoxy]benzylidene)-2,4-thiazolidinedione | O1C(=NC2=C1C=CC=C2)NCCOC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C19H15N3O4S
